US04631328
(a) 1,4-Diaminoanthraquinone-2,3-dicarboxylic acid N-(6-hydroxyhexyl)-imide
A mixture of 9.2 g of 1,4-diaminoanthraquinone-2,3-dicarboxylic acid imide, 1.8 g of sodium methylate and 50 g of dimethylformamide is heated to 100° C., 4.9 g of 6-chlorohexan-1-ol are added, the mixture is heated at 100° C. for 3 hours, allowed to cool and poured onto 300 g of water, and the precipitated product is filtered off under suction, washed with water, dried and then recrystallized from 1,1,2-trichloroethane.

reactant | 1,4-diaminoanthraquinone-2,3-dicarboxylic acid imide | 9.2 g | NC1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=N)=O)N)C(=O)O)C(=O)O | C16H11N3O5
reactant | sodium methylate | 1.8 g | C[O-].[Na+]
reactant | dimethylformamide | 50 g | CN(C=O)C | C3H7NO
reactant | 6-chlorohexan-1-ol | 4.9 g | ClCCCCCCO | C6H13ClO
solvent | water | 300 g | O | H2O
product | 1,4-Diaminoanthraquinone-2,3-dicarboxylic acid N-(6-hydroxyhexyl)-imide | OCCCCCCN=C1C2=CC=CC=C2C(C=2C(=C(C(=C(C12)N)C(=O)O)C(=O)O)N)=O | C22H23N3O6
